US09289512B2
FMoc-4-(4-aminophenyl)butanoic acid 10c (n=3):
4-(4-aminophenyl)butanoic acid (250 mg, 1.4 mmol) in a 10 mL flask was dissolved in a mixture of 10% aqueous sodium bicarbonate (0.29 mL) and tetrahydrofuran (2.1 mL) then cooled in an ice/water bath. 9-fluorenylmethyl chloroformate (390 mg, 1.4 mmol) was added in small portions over 3 min. After 4 h the cooling bath was removed. After additional 4 h at room temperature, the reaction was extracted with deionized water (2 mL) and ethyl ether (2 mL) and the aqueous layer was brought to pH 4 with dilute HCl and placed in a refrigerator. After 1 h solid was collected by vacuum filtration and washed with deionized water then dried under vacuum to give 290 mg of product (52% yield). Mass spectrum C25H23NO4 (M+Na)+ calcd for 424.1. found 424.0.

reactant | 4-(4-aminophenyl)butanoic acid | 1.4 mmol, 250 mg | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
reactant | 9-fluorenylmethyl chloroformate | 1.4 mmol, 390 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | sodium bicarbonate | 0.29 mL | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 2.1 mL | O1CCCC1 | C4H8O
product | FMoc-4-(4-aminophenyl)butanoic acid | 290 mg, 52% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)C(C(=O)O)CCC1=CC=C(C=C1)N | C25H23NO4
